US05399703
Step 3 2-[3-(1H-Tetrazol-5-yl)phenoxy]aniline
In a mixture of 18 ml of ethanol and 9 ml of N,N-dimethylformamide was dissolved 1.5 g of 5-[3-(2-nitrophenoxy)phenyl]-1H-tetrazole and catalytic hydrogenation was carried out in the presence of 0.3 g of palladium-carbon at atmospheric temperature and pressure. After this reaction, the catalyst was filtered off and the filtrate was concentrated to give 1.3 g of the title compound as a colorless oil.

reactant | 5-[3-(2-nitrophenoxy)phenyl]-1H-tetrazole | 1.5 g | [N+](=O)([O-])C1=C(OC=2C=C(C=CC2)C2=NN=NN2)C=CC=C1 | C13H9N5O3
solvent | ethanol | 18 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
product | 2-[3-(1H-Tetrazol-5-yl)phenoxy]aniline | 1.3 g | N1N=NN=C1C=1C=C(OC2=C(N)C=CC=C2)C=CC1 | C13H11N5O
